US07737166B2
4-Bromo-3-fluoro-6-iodo-2-methoxy-5-methylphenylamine (I-44)
N-iodosuccinimide (1.91 g, 8.5 mmol) was added to an acetic acid (40 ml) solution of 4-bromo-3-fluoro-2-methoxy-5-methylaniline (I-43) (1.90 g, 8.1 mmol), followed by stirring at room temperature for 67 hours. Saturated brine was added to the reaction liquid, followed by extraction twice with ethyl acetate, the organic layer was washed three times with saturated brine, dried over anhydrous magnesium sulfate.

reactant | N-iodosuccinimide | 8.5 mmol, 1.91 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | 4-bromo-3-fluoro-2-methoxy-5-methylaniline | 8.1 mmol, 1.90 g | BrC1=C(C(=C(N)C=C1C)OC)F | C8H9BrFNO
solvent | brine | [Cl-].[Na+].O
product | 4-Bromo-3-fluoro-6-iodo-2-methoxy-5-methylphenylamine | BrC1=C(C(=C(C(=C1C)I)N)OC)F | C8H8BrFINO
